* FS-3W amplifier channel core -- GENERATED by tools/gen_spice.py
* Do not edit. Change tools/channel_netlist.py and regenerate.
*
* FB and Q1B_B are intentionally left unconnected; the analysis deck
* joins them. See tools/gen_spice.py docstring.
*
* Bias trimmer position: rv2_b is the ohms of RV2's track left in the
* multiplier's lower leg, so it is valid over 0..RV2 and nothing else.
* The default is the setpoint found by tools/sim_sweep.py verify, which is
* 45 mA per output device. Setting it outside the track range biases the
* output stage off, and an AC analysis will then report a stable-looking
* amplifier that is really just a dead one, so the decks re-check Iq.
.param rv2_a=53 rv2_b=47
*
* Device temperatures. t_hs applies to everything bolted to the main
* heatsink (Q7 Q10-Q15), t_pcb to everything else. Sweeping them
* independently is how the bias spreader's tracking gets verified.
.param t_hs=25 t_pcb=25
*
* Bias spreader divider legs, as parameters rather than literals so a
* sweep can override them with a second .param instead of `alter`. That
* is not cosmetic: `alter` on these two resistors leaves the solver in a
* state from which it reaches the spurious collapsed-spreader operating
* point at heatsink temperatures near 55 C, where a parse-time override
* converges on the real one. See tools/sim_sweep.py.
.param r21=4420 r22=1000

* ---- rails ----
VVCC_MAIN VCC_MAIN 0 DC 24.0
VVEE_MAIN VEE_MAIN 0 DC -24.0
VVCC_FE VCC_FE 0 DC 30.0
VVEE_FE VEE_FE 0 DC -30.0
VVCC_15 VCC_15 0 DC 15.0
VVEE_15 VEE_15 0 DC -15.0

* ---- AIN pulldown ----
RR4 AIN 0 100000

* ---- base stopper ----
RR6 AIN LTP_INP 1000

* ---- input pole; 723 kHz against R6 alone ----
CC7 LTP_INP 0 2.2e-10

* ---- input LTP ----
QQ1A LC_A LTP_INP Q1A_E QBC857C temp={t_pcb}
QQ1B LC_B Q1B_B Q1B_E QBC857C temp={t_pcb}

* ---- LTP degeneration ----
RR8 Q1A_E TAIL 220
RR9 Q1B_E TAIL 220

* ---- tail current source ----
QQ2 TAIL TREF Q2_E QBC857C temp={t_pcb}

* ---- sets tail current ----
RR10 VCC_FE Q2_E 287

* ---- tail reference ----
DD1 VCC_FE TREF DLEDRED

* ---- LED bias ----
RR11 TREF 0 15000
RR20 CSREF 0 15000

* ---- TREF decoupling ----
CC8 TREF VCC_FE 1e-07

* ---- mirror ----
QQ3A LC_A LC_B Q3A_E QBC847C temp={t_pcb}
QQ3B LC_B LC_B Q3B_E QBC847C temp={t_pcb}

* ---- mirror degeneration ----
RR12 Q3A_E VEE_FE 68
RR13 Q3B_E VEE_FE 68

* ---- VAS beta enhancer ----
QQ4 VCC_FE LC_A VB_PRE QBC847C temp={t_pcb}

* ---- keeps Q4 conducting ----
RR14 VB_PRE VEE_FE 10000

* ---- Q5 base stopper ----
RR18 VB_PRE Q5_B 100

* ---- VAS ----
QQ5 BIAS_BOT Q5_B Q5_E QTTC004B temp={t_pcb}

* ---- VAS degeneration ----
RR15 Q5_E VEE_FE 100

* ---- Cdom ----
CC9 BIAS_BOT LC_A 6.8e-11

* ---- VAS current-source load ----
QQ6 BIAS_TOP CSREF Q6_E QTTA004B temp={t_pcb}

* ---- sets VAS current ----
RR19 VCC_FE Q6_E 115

* ---- current source reference ----
DD2 VCC_FE CSREF DLEDRED

* ---- CSREF decoupling ----
CC11 CSREF VCC_FE 1e-07

* ---- Vbe multiplier ----
QQ7 BIAS_TOP BADJ BIAS_BOT QNJW0281 temp={t_hs}

* ---- multiplier upper leg; with R22 this sets the tempco ----
RR21 BIAS_TOP BADJ {r21}

* ---- bias trim ----
RRV2B BADJ BADJ_L {rv2_b}

* ---- multiplier lower leg; also the minimum-spread limit ----
RR22 BADJ_L BIAS_BOT {r22}

* ---- spreader HF bypass ----
CC12 BIAS_TOP BIAS_BOT 1e-07

* ---- failsafe spread clamp ----
DD3 BIAS_BOT BIAS_TOP DZ5V1

* ---- NPN pre-driver ----
QQ8 VCC_FE BIAS_TOP PD_N QTTC004B temp={t_hs}

* ---- PNP pre-driver ----
QQ9 VEE_FE BIAS_BOT PD_P QTTA004B temp={t_hs}

* ---- pre-driver emitter load ----
RR23 PD_N OUT_STAR 2200
RR24 PD_P OUT_STAR 2200

* ---- NPN driver ----
QQ10 VCC_MAIN PD_N DR_N QMJE15032 temp={t_hs}

* ---- PNP driver ----
QQ11 VEE_MAIN PD_P DR_P QMJE15033 temp={t_hs}

* ---- driver emitter load ----
RR25 DR_N OUT_STAR 220
RR26 DR_P OUT_STAR 220

* ---- output base stopper ----
RR27 DR_N Q12_B 4.7
RR28 DR_N Q13_B 4.7
RR29 DR_P Q14_B 4.7
RR30 DR_P Q15_B 4.7

* ---- output NPN ----
QQ12 VCC_MAIN Q12_B Q12_E QNJW0281 temp={t_hs}
QQ13 VCC_MAIN Q13_B Q13_E QNJW0281 temp={t_hs}

* ---- output PNP ----
QQ14 VEE_MAIN Q14_B Q14_E QNJW0302 temp={t_hs}
QQ15 VEE_MAIN Q15_B Q15_E QNJW0302 temp={t_hs}

* ---- emitter ballast 3W ----
RR31 Q12_E OUT_STAR 0.22
RR32 Q13_E OUT_STAR 0.22
RR33 Q14_E OUT_STAR 0.22
RR34 Q15_E OUT_STAR 0.22

* ---- Zobel resistor 3W ----
RR35 OUT_STAR ZOB 10

* ---- Zobel capacitor ----
CC13 ZOB 0 1e-07

* ---- output inductor ----
LL1 OUT_STAR SPK_OUT 2.2e-06

* ---- damps L1 ----
RR36 OUT_STAR SPK_OUT 10

* ---- feedback upper ----
RR37 OUT_STAR FB 2200

* ---- feedback lower ----
RR38 FB 0 115

* ---- feedback RF ingress guard; NOT a bandwidth limit ----
CC14 OUT_STAR FB 1e-11

* ---- servo integrator ----
XU2A SRV_A_REF SRV_A_IN SRV_A_OUT VCC_15 VEE_15 OPA1642
CC15 SRV_A_IN SRV_A_OUT 2.2e-06

* ---- servo inverter ----
XU2B SRV_B_REF SRV_B_IN SRV_B_OUT VCC_15 VEE_15 OPA1642

* ---- servo integrator input ----
RR44 OUT_STAR SRV_A_IN 470000

* ---- servo reference ----
RR45 SRV_A_REF 0 1000
RR49 SRV_B_REF 0 1000

* ---- inverter input ----
RR46 SRV_A_OUT SRV_B_IN 100000

* ---- inverter feedback ----
RR47 SRV_B_IN SRV_B_OUT 100000

* ---- limits servo to 16 Hz ----
CC16 SRV_B_IN SRV_B_OUT 1e-07

* ---- servo injection into FB ----
RR48 SRV_B_OUT FB 10000

* ---- U2 +15V decoupling ----
CC17 VCC_15 0 1e-07

* ---- U2 -15V decoupling ----
CC18 VEE_15 0 1e-07

* ---- DC offset sense ----
RR43 OUT_STAR DC_SENSE 100000

* ---- bias/overcurrent sense ----
RR50 Q12_E I_SENSE 10000

* ---- main rail reservoir ----
CC19 VCC_MAIN 0 0.00022
CC20 0 VEE_MAIN 0.00022

* ---- main rail film ----
CC21 VCC_MAIN 0 1e-07
CC22 VEE_MAIN 0 1e-07

* ---- front-end rail bulk ----
CC23 VCC_FE 0 1e-05
CC24 VEE_FE 0 1e-05

* ---- front-end rail decoupling ----
CC25 VCC_FE 0 1e-07
CC26 VEE_FE 0 1e-07

* ---- terminations for otherwise floating sense outputs ----
Rterm_DC_SENSE DC_SENSE 0 1G
Rterm_I_SENSE I_SENSE 0 1G

* 82 element cards emitted; 17 refs omitted (C1, C10, C2, C3, C4, C5, C6, Q16, R1, R16, R2, R3, R5, R7, RV1, U1, U2P)
